US06331552B1
40 g (88.7 mmol) of Fmoc-Asp(OtBu)-Oallyl were treated with 25 ml of TFA and the mixture was stirred at room temperature for 30 minutes. The solvent was stripped off on a rotary evaporator. The residue was dried in vacuo. Fmoc-Asp(OH)-Oallyl was obtained as a yellow oil in a yield of 33.9 g (97%). ES(+)−MS: 395.2 (M+H)+

reactant | Fmoc-Asp(OtBu)-Oallyl | 88.7 mmol, 40 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)OCC=C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H29NO6
reactant | TFA | 25 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | Fmoc-Asp(OH)-Oallyl | N([C@@H](CC(O)=O)C(=O)OCC=C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C22H21NO6
